US09193723B2
ethyl 2-(piperidin-4-yl)thiazole-5-carboxylate
Ethyl 3-ethoxyacrylate (1.50 g, 10.38 mml) was dissolved in dioxane/water and chilled to −10° C. N-Bromosuccinimide (2.03 g, 11.42 mmol) was added and the mixture was stirred 1 hour at room temperature. tert-Butyl 4-carbamothioylpiperidine-1-carboxylate (2.54 g, 10.38 mmol) was added and the mixture was heated at 100° C. for 1 hour. The reaction mixture was poured into 25 mL saturated ammonium hydroxide and extracted with dichloromethane. The combined organic layers were washed with brine, dried with sodium sulfate, filtered, and concentrated. Normal phase chromatography provided the title compound.

reactant | Ethyl 3-ethoxyacrylate | 1.50 g | C(C)OC=CC(=O)OCC | C7H12O3
reactant | N-Bromosuccinimide | 11.42 mmol, 2.03 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | tert-Butyl 4-carbamothioylpiperidine-1-carboxylate | 10.38 mmol, 2.54 g | C(N)(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
solvent | dioxane water | O1CCOCC1.O
product | ethyl 2-(piperidin-4-yl)thiazole-5-carboxylate | N1CCC(CC1)C=1SC(=CN1)C(=O)OCC | C11H16N2O2S
